US05559143
19A) 5-Iodo-N-[4-(trifluoromethyl)phenyl]-pentanamide
5--Chloro-N-[4--(trifluoromethyl)phenyl]-pentanamide (2.795 g) and sodium iodide (3.32 g) were stirred in acetone (20 ml) at 22° C. for 3d, then heated at reflux for 16h, all under nitrogen. The cooled reaction mixture was chromatographed with 50:50 ethyl acetate:hexane to isolate product with Rf =0.30 in 35:65 ethyl acetate:hexane by addition of hexane and evaporation of solvent under a stream of nitrogen afforded, after suction filtration, a white solid (2.8 87 g). The product iodide contained ca. 5% starting chloride and was used without further purification.

reactant | 5--Chloro-N-[4--(trifluoromethyl)phenyl]-pentanamide | 2.795 g | ClCCCCC(=O)NC1=CC=C(C=C1)C(F)(F)F | C12H13ClF3NO
reactant | sodium iodide | 3.32 g | [I-].[Na+]
reactant | hexane | CCCCCC | C6H14
solvent | acetone | 20 ml | CC(=O)C | C3H6O
product | 5-Iodo-N-[4-(trifluoromethyl)phenyl]-pentanamide | ICCCCC(=O)NC1=CC=C(C=C1)C(F)(F)F | C12H13F3INO
